US03957997
A mixture of 4,6-dimethyl2(1H)-pyridone (2.46 g., 0.02 moles), potassium hydroxide (1.58 g., 0.024 moles) and ethyl iodide (6.24 g., 0.04 moles) in 50 ml. ethanol is heated at reflux for 3 hours. The ethanol is removed under vacuum leaving a solid residue which is extracted with methylene chloride. The methylene chloride extracts are washed with 2.5 N sodium hydroxide, water, a saturated salt solution, and dried over sodium sulfate. Evaporation of the dried extracts affords 1-ethyl-4,6-dimethyl-2(1H)-pyridone as a pale yellow oil (1.5 g., 48%) which shows a single spot on thin layer chromatography.

reactant | 4,6-dimethyl2(1H)-pyridone | 0.02 moles, 2.46 g | CC1=CC(NC(=C1)C)=O | C7H9NO
reactant | potassium hydroxide | 0.024 moles, 1.58 g | [OH-].[K+]
reactant | ethyl iodide | 0.04 moles, 6.24 g | C(C)I | C2H5I
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-4,6-dimethyl-2(1H)-pyridone | C(C)N1C(C=C(C=C1C)C)=O | C9H13NO
